US04337341
To a cold solution (0°-5° C.) of 3.0 g. of 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine in 47 ml. of methanol containing 14 ml. of water and 2.6 g. of potassium carbonate was added 2.6 g. of phenylacetyl chloride in one portion. The reaction mixture was stirred at 0°-5° C. for thirty minutes and then was warmed to 25° C., at which it was stirred for an additional one hour. The reaction mixture was concentrated under reduced pressure, leaving an oily residue. The oil was then dissolved in 500 ml. of diethyl ether and washed with dilute aqueous sodium bicarbonate solution and with water. After drying the ethereal solution, the solvent was evaporated under reduced pressure to afford 4a-phenyl-2-phenylacetyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine formed in the above acylation reaction as an oil.

reactant | 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCNCC2CCC1 | C14H19N
reactant | methanol | 14 ml | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | O | H2O
product | 4a-phenyl-2-phenylacetyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCNC(C2CCC1)C(CC1=CC=CC=C1)=O | C22H25NO
